US08426604B2
5-[1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazol-5ylmethylene]-2-[(2-diethylamino-ethyl)-methyl-amino]-thiazol-4-one was prepared from 1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazole-5-carbaldehyde and 2-[(2-Diethylamino-ethyl)-methyl-amino]-thiazol-4-one following General Procedure E.

reactant | 1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazole-5-carbaldehyde | FC(C1=C(CN2N=C(C3=CC(=CC=C23)C=O)I)C=CC(=C1)C(F)(F)F)(F)F | C17H9F6IN2O
reactant | 2-[(2-Diethylamino-ethyl)-methyl-amino]-thiazol-4-one | C(C)N(CCN(C=1SCC(N1)=O)C)CC | C10H19N3OS
product | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazol-5ylmethylene]-2-[(2-diethylamino-ethyl)-methyl-amino]-thiazol-4-one | FC(C1=C(CN2N=C(C3=CC(=CC=C23)C=C2C(N=C(S2)N(C)CCN(CC)CC)=O)I)C=CC(=C1)C(F)(F)F)(F)F | C27H26F6IN5OS
